US07691882B2
4-(5-(6-Amino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol
To a trifluoroacetic acid (5 mL) solution of 5-(3-(4-benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine (270 mg, 0.755 mmol) described in Example 28 was added thioanisole (355 μL, 3.02 mmol) at 0° C., which was stirred for 1 hour and 20 minutes at room temperature. Sodium hydrogencarbonate and water were added to the reaction mixture at 0° C., which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:methanol=10:1) to obtain the title compound (150 mg, 74%).

reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-(3-(4-benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 0.755 mmol, 270 mg | C(C1=CC=CC=C1)OC1=CC=C(CC2=NOC(=C2)C=2C=CC(=NC2)N)C=C1 | C22H19N3O2
reactant | thioanisole | 3.02 mmol, 355 μL | C1(=CC=CC=C1)SC | C7H8S
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 4-(5-(6-Amino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol | 150 mg, 74% | NC1=CC=C(C=N1)C1=CC(=NO1)CC1=CC=C(C=C1)O | C15H13N3O2
